US03931199
A mixture of 7.5 ml of glacial acetic acid, 0.9 ml of concentrated sulfuric acid, 4.5 ml of water and 4.6 g of diethyl 2-(5-oxo-5H-[1]benzopyrano[2,3-b]pyridin-7-yl-carbonyl)malonate is stirred under reflux for 2 hours. The reaction mixture is poured into 50 ml of cool water. The crystalline precipitate is filtered off, and suspended in water. The suspension is alkalified with 10% sodium hydroxide under ice cooling, and extracted with chloroform. The extract is washed thoroughly with water, dried, and concentrated. The residue is recrystallized from toluene to give 7 -acetyl-5-oxo-5H-[1]benzopyrano[2,3-b]pyridine melting at 194°-195°C.

reactant | acetic acid | 7.5 ml | C(C)(=O)O | C2H4O2
reactant | sulfuric acid | 0.9 ml | S(O)(O)(=O)=O | H2O4S
reactant | diethyl 2-(5-oxo-5H-[1]benzopyrano[2,3-b]pyridin-7-yl-carbonyl)malonate | 4.6 g | O=C1C2=C(OC3=NC=CC=C31)C=CC(=C2)C(=O)C(C(=O)OCC)C(=O)OCC | C20H17NO7
solvent | water | 50 ml | O | H2O
solvent | water | 4.5 ml | O | H2O
product | 7 -acetyl-5-oxo-5H-[1]benzopyrano[2,3-b]pyridine | C(C)(=O)C=1C=CC2=C(C(C=3C(=NC=CC3)O2)=O)C1 | C14H9NO3
